US05446192
In a distillation apparatus, 86 g of t-butylaminal ester and 87 g of ethyl butyrate in 100 ml of DMF were heated so that the alcohol distilled off slowly. Distillation of the product gave 73.8 g of ethyl β-dimethylamino-2ethylacrylate, corresponding to 87.3% of the theoretical yield.

reactant | ethyl butyrate | 87 g | C(CCC)(=O)OCC | C6H12O2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | ethyl β-dimethylamino-2ethylacrylate | 73.8 g | CN(C=C(C(=O)OCC)CC)C | C9H17NO2
